US07700774B2
Step (viii): Preparation of 2-Ethyl-4-hydroxyimino-6,8-dimethyl-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester
This compound can be prepared by reacting an ethanolic solution of 2-ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester, with NH2OH.HCl (2-3 eqv) and pyridine (1-3 eqv), typically at reflux temperature for about 2 to about 6 h, followed by a typical workup procedure.

reactant | 2-ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C(CC(C2=CC(=NC(=C12)C)C)=O)CC | C15H20N2O3
reactant | NH2OH.HCl | 2-3 eqv | NO.Cl
reactant | pyridine | 1-3 eqv | N1=CC=CC=C1 | C5H5N
product | 2-Ethyl-4-hydroxyimino-6,8-dimethyl-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C(CC(C2=CC(=NC(=C12)C)C)=NO)CC | C15H21N3O3
